US04389321
A solution of 3.2 g (0.02 mole) of 1,8-diaminonaphthalene and 3.0 g (0.02 mole) of p-dimethylaminobenzaldehyde in 35 ml of ethanol was refluxed for 2 hours. After cooling, the resulting precipitate was filtered and recrystallized from ethanol. There were obtained 3.8 g of 2-(p-dimethylaminophenyl)-2,3-dihydroperimidine as colorless crystals, m.p. 165°-166° C. (Compound No. 18).

reactant | 1,8-diaminonaphthalene | 0.02 mole, 3.2 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | p-dimethylaminobenzaldehyde | 0.02 mole, 3.0 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 2-(p-dimethylaminophenyl)-2,3-dihydroperimidine | 3.8 g | CN(C1=CC=C(C=C1)C1NC=2C=CC=C3C=CC=C(N1)C23)C | C19H19N3
